US08283353B2
propyl 3-methylidenecyclobutanecarboxylate
A mixture of 3-methylidenecyclobutanecarboxylic acid (18 g), sodium hydride (6.9 g) and N,N-dimethylformamide (300 mL) was stirred at room temperature for 10 min, propyl iodide (17 mL) was added, and the mixture was stirred at room temperature for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with 5% aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by distillation (45-50° C., 2 mmHg) to give the title compound as a colorless oil (16 g, 66%).

reactant | 3-methylidenecyclobutanecarboxylic acid | 18 g | C=C1CC(C1)C(=O)O | C6H8O2
reactant | sodium hydride | 6.9 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
reactant | propyl iodide | 17 mL | C(CC)I | C3H7I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | propyl 3-methylidenecyclobutanecarboxylate | 16 g, 66% | C=C1CC(C1)C(=O)OCCC | C9H14O2
